US07220777B2
5-Phenoxy-2-(2-pyrrolidin-1-ylmethyl-2,3-dihydro-benzo[1,4]dioxin-6-yl)-isoindole-1,3-dione
2-Pyrrolidin-1-ylmethyl-2,3-dihydro-benzo[1,4]dioxin-6-ylamine (WO 0121577 A2] was treated with 3-phenoxyphthalic anhydride in the same manner as for 4-(2-diisopropylamino-ethoxy)-3-methoxy-phenylamine in Example A4 to give the title compound.

reactant | 2-Pyrrolidin-1-ylmethyl-2,3-dihydro-benzo[1,4]dioxin-6-ylamine | N1(CCCC1)CC1COC2=C(O1)C=CC(=C2)N | C13H18N2O2
reactant | 3-phenoxyphthalic anhydride | O(C1=CC=CC=C1)C1=C2C(C(=O)OC2=O)=CC=C1 | C14H8O4
reactant | 4-(2-diisopropylamino-ethoxy)-3-methoxy-phenylamine | C(C)(C)N(CCOC1=C(C=C(C=C1)N)OC)C(C)C | C15H26N2O2
product | 5-Phenoxy-2-(2-pyrrolidin-1-ylmethyl-2,3-dihydro-benzo[1,4]dioxin-6-yl)-isoindole-1,3-dione | O(C1=CC=CC=C1)C=1C=C2C(N(C(C2=CC1)=O)C1=CC2=C(OC(CO2)CN2CCCC2)C=C1)=O | C27H24N2O5
